US08497264B2
Bromine (0.797 ml, 15.47 mmol) was added to a suspension of zinc dust (8.09 g, 124 mmol in diethyl ether (150 ml) at RT. After 5 minutes, ethyl 2-bromoacetate (6.86 ml, 61.9 mmol) was added drop wise over a time period of 20 minutes and the reaction mixture was heated to reflux for 2 hours. 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one (10 g, 30.9 mmol) was added in one portion, followed by THF (100 ml) and the reaction mixture was heated to reflux for 3 hours. The reaction mixture was quenched with aqueous saturated NH4Cl solution (100 mL) and EtOAc (100 mL) and stirred 2 hours at RT. The solution was filtered and the organic phase was separated. The solvent was removed under educed pressure to afford ethyl 2-(7-bromo-4-fluoro-9-hydroxy-2-methoxy-9H-xanthen-9-yl)acetate (12.7 g, 30.9 mmol, 100% yield).

reactant | Bromine | 15.47 mmol, 0.797 ml | BrBr | Br2
reactant | ethyl 2-bromoacetate | 61.9 mmol, 6.86 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one | 30.9 mmol, 10 g | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)=O)OC)F | C14H8BrFO3
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
catalyst | zinc | [Zn] | Zn
product | ethyl 2-(7-bromo-4-fluoro-9-hydroxy-2-methoxy-9H-xanthen-9-yl)acetate | 30.9 mmol, 12.7 g, 100% yield | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)(O)CC(=O)OCC)OC)F | C18H16BrFO5
